US04758577
0.59 gram (5.17 millimoles) of mesyl chloride was added neat and in a dropwise manner over a 5 minute period to a stirred solution of 1.00 gram (3.62 millimoles) of 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-piperidine and 1.45 grams (14.35 millimoles) of triethylamine in 10 milliliters of methylene chloride. The resulting solution was stirred an additional one-half hour and then diluted with 100 milliliters of methylene chloride. Thereafter the solution was washed with saturated sodium bicarbonate solution, then with brine and dried over magnesium sulfate. The drying agent was filtered off and the solvent vaporized in vacuo to obtain the desired 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(methylsulfonyl)piperidine product as a yellow solid residue. The product after recrystallization from ethyl acetate had a melting point of 260°-268° C. and elemental analyses as follows:

reactant | mesyl chloride | 5.17 millimoles, 0.59 gram | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-piperidine | 3.62 millimoles, 1.00 gram | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCNCC3 | C20H21N
reactant | triethylamine | 14.35 millimoles, 1.45 grams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 milliliters | C(Cl)Cl | CH2Cl2
product | 4-(5H-dibenzo[a,d]cyclohepten-5-yl)-1-(methylsulfonyl)piperidine | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)C3CCN(CC3)S(=O)(=O)C | C21H23NO2S
